US05886011
5 g of 3-amino-2-chloropyridine was dissolved in 80 ml of acetic acid, and 7.1 g of 2,2-dimethyl-7-formyl-2,3-dihydrobenzofuran was added. Then, the mixture was stirred at room temperature for about 30 minutes, and 16.5 g of triacetoxy sodium borohydride was added gradually under ice-cooling. After stirring the obtained reaction mixture at room temperature for about four hours, the solvent was concentrated. After adding ice-water to the residue and alkalizing it with an aqueous sodium hydroxide solution, it was extracted twice with ethyl acetate. After washing the organic layer with water and drying, it was concentrated and purified with a short column (dichloromethane/methanol=10:1) using silica gel to obtain 12.2 g of oily 3-[(2,2-dimethyl-2,3-dihydrobenzofuran-7-yl)methyl]amino-2-chloropyridine.

reactant | 3-amino-2-chloropyridine | 5 g | NC=1C(=NC=CC1)Cl | C5H5ClN2
reactant | 2,2-dimethyl-7-formyl-2,3-dihydrobenzofuran | 7.1 g | CC1(OC2=C(C1)C=CC=C2C=O)C | C11H12O2
solvent | acetic acid | 80 ml | C(C)(=O)O | C2H4O2
product | 3-[(2,2-dimethyl-2,3-dihydrobenzofuran-7-yl)methyl]amino-2-chloropyridine | 12.2 g | CC1(OC2=C(C1)C=CC=C2CNC=2C(=NC=CC2)Cl)C | C16H17ClN2O
